2104-09-27 11:34:00 Physician Attending Progress Note
Chief Complaint: Epistaxis, BRBPR, thrombocytopenia
   I saw and examined the patient, and was physically present with the ICU
   Resident and fellow for key portions of the services provided.  I agree
   with his / her note above, including assessment and plan.
   HPI:
   [**Age over 90 **] F PMH CAD who presented to the [**Location (un) 1415**] ED with epistaxis 2 days ago
   that was difficult to control in addition to BRBPR.  Her evaluation
   there was notable for platelets of 3.  She was transferred to [**Hospital1 54**]
   ER.  Hematology service evaluated her there and was concerned about ITP
   based on peripheral smear. She received 2 units PRBC and 2 bags of
   platelets and was admitted to the ICU.
   In MICU, her anti-platelet medications were held (ASA, plavix).  A head
   CT was unremarkable.
   24 Hour Events:
 EKG - At [**2104-9-27**] 04:20 AM
   -Repeat CBC this a.m. with new leukopenia, worsening anemia (hct 19
   from 23%) and thrombocytopenia
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Codeine
   Shortness of br
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Shortness of br
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2104-9-27**] 08:00 AM
   Other medications:
   Calcium carbonate
   Lopressor 25 mg [**Hospital1 **]
   Simvastatin 10 mg daily
   Lisinopril 20 mg daily
   MVI daily
   Colace 100 mg [**Hospital1 **]
   Oxybutynin 10 mg daily
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: Dry mouth
   Nutritional Support: NPO
   Heme / Lymph: Anemia, Coagulopathy
   Flowsheet Data as of  [**2104-9-27**] 11:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.3
C (97.3
   HR: 58 (51 - 67) bpm
   BP: 147/66(85) {131/46(65) - 155/66(85)} mmHg
   RR: 24 (15 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SB (Sinus Bradycardia)
           Total In:
           1,789 mL
   PO:
           50 mL
   TF:
   IVF:
   309 mL
   Blood products:
   1,030 mL
   Total out:
                                                                      0 mL
                                                                  1,030 mL
   Urine:
   680 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                    759 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   Physical Examination
   General Appearance: Well nourished, Thin
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   Bibasilar), Kyphosis
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed, Rash: Petecchiae, Ecchymoses
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.0 g/dL
   11 K/uL
   87 mg/dL
   0.7 mg/dL
   23 mEq/L
   2.7 mEq/L
   19 mg/dL
   115 mEq/L
   143 mEq/L
   19.0 %
   3.5 K/uL
        [image002.jpg]
                             [**2104-9-27**]  04:54 AM
   WBC
   3.5
   Hct
   19.0
   Plt
   11
   Cr
   0.7
   Glucose
   87
   Other labs: PT / PTT / INR:13.7/28.2/1.3, D-dimer:1433, Fibrinogen:332
   Imaging: Head CT - Negative for hemorrhage.
   CXR - Tortuous aorta.  Clear lungs.
   Microbiology: None.
   Assessment and Plan
   93 F PMH CAD admitted with profound thrombocytopenia complicated by
   spontaneous bleeding.  Despite transfusions of platelets and PRBC, she
   is pancytopenic this morning.  Her peripheral smear was reportedly
   negative for schistocytes with normal cell morphology and the concern
   for ITP was raised.
   1)       Severe Thrombocytopenia
 DDx includes plavix, viral syndrome,
   ITP, myelodysplasia, TTP.  No evidence of DIC.  She is s/p repeat
   transfusion this a.m. and a repeat CBC is pending.  Goal is platelets >
   30K.  Repeat fibrinogen, LDH this a.m.   Hematology following.  No
   plans for BM biopsy despite pancytopenia this a.m.  We will start
   prednisone 1 mg/kg this morning.  Continue to hold anti-platelet
   therapy.
   2)       Acute anemia
 Transfused 1 unit PRBC this a.m.  Repeat CBC
   pending.  No obvious external bleeding currently.  We are ruling out
   hemolysis.  Retic count normal.
   3)       CAD
 Continue beta-blocker, statin.  Holding ASA, plavix.
   4)       HTN
 Continue beta-blocker, ACEI.  Holding amlodipine.
   5)       Code status
 discussed with Mrs [**Known lastname 4662**]. She does not wish CPR
   and if resuscitated, does not
want to be a burden.
 Willing to be
   intubated and have pressors. DNR (no chest compressions)
   ICU Care
   Nutrition: Regular diet.
   Glycemic Control:  None needed.
   Lines: Peripheral IVs.
   18 Gauge - [**2104-9-27**] 03:10 AM
   Prophylaxis:
   DVT: Boots.
   Stress ulcer: DC Protonix when taking po.
   VAP: N/A
   Comments:
   Communication:  Comments:
   Code status: Full code.
   Disposition : Remains in ICU.
   Total time spent: 36 min, patient is critically ill

2104-09-28 02:42:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   * Per discussion with heme/onc, patient was started on Prednisone
   1mg/kg for presumed ITP. Additional labs for work-up
      were ordered and are pending.
   * Patient was transfused 2 units of PRBCs and 1 bag of platelets, with
   appropriate increase in Hct ad platelets increased
      to 30 (goal > 10)
   * Repeat EKG at a slower rate showed resolution of previous STDs
   * DNR/DNI confirmed with patient
   Allergies:
   Codeine
   Shortness of br
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Shortness of br
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2104-9-27**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-9-28**] 02:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.1
C (97
   HR: 47 (47 - 68) bpm
   BP: 135/50(73) {105/46(65) - 157/83(123)} mmHg
   RR: 20 (15 - 25) insp/min
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
             Total In:
                                                                  2,626 mL
                                                                     26 mL
   PO:
                                                                    540 mL
             TF:
   IVF:
                                                                    656 mL
                                                                     26 mL
   Blood products:
                                                                  1,030 mL
   Total out:
                                                                  1,930 mL
                                                                      0 mL
   Urine:
                                                                  1,580 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    696 mL
                                                                     26 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///26/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   32 K/uL
   9.9 g/dL
   93 mg/dL
   0.9 mg/dL
   26 mEq/L
   4.5 mEq/L
   19 mg/dL
   110 mEq/L
   140 mEq/L
   26.6 %
   4.4 K/uL
        [image002.jpg]
                             [**2104-9-27**]  04:54 AM
                             [**2104-9-27**]  11:11 AM
   WBC
   3.5
   4.4
   Hct
   19.0
   26.6
   Plt
   11
   32
   Cr
   0.7
   0.9
   Glucose
   87
   93
   Other labs: LDH:190 IU/L, Ca++:8.6 mg/dL, Mg++:2.1 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   [**Age over 90 323**] yo female presents with bleeding in the setting of low platelets,
   likely secondary to ITP.
   # Thromocytopenia: Currently felt to be ITP. Written for Prednisone 1
   mg/kg with heme/onc following.
   -Transfuse plts to keep >30, HCT >25
   -f/u heme recs; possible BM biopsy
   -Hold antiplatelet medications until counts recover
   # Anemia: Improved to baseline as can best be determined.
   -Continue to monitor; transfuse for Hct < 25 and should active bleeding
   begin and or CP, would transfuse to > 30
   # CAD: Continue home BB and statin. Holding home ASA and Plavix in
   setting of thrombocytopenia. Keep HCT >25.
   # HTN: Continue home BB and ACEi and trend; hold CCB.
   # Urinary urgency: oxybutynin.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2104-9-27**] 03:10 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2104-09-28 02:43:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   * Per discussion with heme/onc, patient was started on Prednisone
   1mg/kg for presumed ITP. Additional labs for work-up
      were ordered and are pending.
   * Patient was transfused 2 units of PRBCs and 1 bag of platelets, with
   appropriate increase in Hct ad platelets increased
      to 30 (goal > 10)
   * Repeat EKG at a slower rate showed resolution of previous STDs
   * DNR/DNI confirmed with patient
   Allergies:
   Codeine
   Shortness of br
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Shortness of br
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2104-9-27**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-9-28**] 02:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.1
C (97
   HR: 47 (47 - 68) bpm
   BP: 135/50(73) {105/46(65) - 157/83(123)} mmHg
   RR: 20 (15 - 25) insp/min
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
             Total In:
                                                                  2,626 mL
                                                                     26 mL
   PO:
                                                                    540 mL
             TF:
   IVF:
                                                                    656 mL
                                                                     26 mL
   Blood products:
                                                                  1,030 mL
   Total out:
                                                                  1,930 mL
                                                                      0 mL
   Urine:
                                                                  1,580 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    696 mL
                                                                     26 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///26/
   Physical Examination
   Gen: Well appearing adult female, no acute distress.
   HEENT: PERRL, EOMI. MMM. Conjunctiva well pigmented but diffuse
   petechial bleeding noted.
   Neck: Supple, without adenopathy or JVD. No tenderness with palpation.
   Chest: Few crackles at bases bilat.
   Cor: Normal S1, S2. RRR. III/VI SEM heard best at LUSB.
   Abdomen: Soft, non-tender and non-distended. +BS, no HSM.
   Extremity: Warm, without edema. 2+ DP pulses bilat.
   Neuro: Alert and oriented. CN 2-12 intact. Motor strength intact in all
   extremities. Sensation intact grossly. Appears to have mild, non-focal
   cognative impairment.
   Labs / Radiology
   31 K/uL
   11.7 g/dL
   184 mg/dL
   1.1 mg/dL
   21 mEq/L
   4.5 mEq/L
   29 mg/dL
   104 mEq/L
   136 mEq/L
   31.3 %
   3.1 K/uL
        [image002.jpg]
                             [**2104-9-27**]  04:54 AM
                             [**2104-9-27**]  11:11 AM
   WBC
   3.5
   4.4
   Hct
   19.0
   26.6
   Plt
   11
   32
   Cr
   0.7
   0.9
   Glucose
   87
   93
   Other labs: LDH:190 IU/L, Ca++:8.6 mg/dL, Mg++:2.1 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   [**Age over 90 323**] yo female presents with bleeding in the setting of low platelets,
   likely secondary to ITP.
   # Thromocytopenia: Currently felt to be ITP. Written for Prednisone 1
   mg/kg with heme/onc following.
   -Transfuse plts to keep >30, HCT >25
   -f/u heme recs; possible BM biopsy
   -Hold antiplatelet medications until counts recover
   # Anemia: Improved to baseline as can best be determined.
   -Continue to monitor; transfuse for Hct < 25 and should active bleeding
   begin and or CP, would transfuse to > 30
   # CAD: Continue home BB and statin. Holding home ASA and Plavix in
   setting of thrombocytopenia. Keep HCT >25.
   # HTN: Continue home BB and ACEi and trend; hold CCB.
   # Urinary urgency: oxybutynin
   # B12 Deficiency: replete
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2104-9-27**] 03:10 AM
   Prophylaxis:
   DVT:  Pneumoboots
   Stress ulcer:  Holding PPI given thrombocytopenia
   VAP:  N/A
   Comments:
   Communication:  Comments:
   Code status:  DNR but not DNI
   Disposition: ICU for now

2104-09-28 09:10:00 Physician Attending Progress Note
Chief Complaint: Epistaxis, rectal bleeding
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   [**Age over 90 323**] F PMH CAD admitted with profound thrombocytopenia after developing
   epistaxis and rectal bleeding.  Her initial platelet count was 3K, but
   has responded to platelet transfusions.  She has no evidence of TTP or
   DIC, and ITP is leading the differential.  Viral serologies and
   metabolic studies are pending.  Prednisone 1 mg/kg (40 mg) was
   initiated [**9-27**].  She has also been anemic, requiring PRBC transfusions,
   but this seems to have stabilized.
   24 Hour Events:
   -Epistaxis this a.m.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Codeine
   Shortness of br
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Shortness of br
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Calcium carbonate 500 mg [**Hospital1 **]
   Simvastatin 10 mg daily
   Lisinopril 20 mg daily
   MVI daily
   Colace
   Detrol
   Prednisone 40 mg daily
   Lopressor 12.5 mg [**Hospital1 **]
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: Epistaxis
   Integumentary (skin): Petechiae
   Heme / Lymph: Anemia
   Flowsheet Data as of  [**2104-9-28**] 09:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 35.9
C (96.7
   HR: 51 (41 - 68) bpm
   BP: 167/58(87) {105/46(65) - 167/83(123)} mmHg
   RR: 21 (16 - 25) insp/min
   SpO2: 98%
   Heart rhythm: SB (Sinus Bradycardia)
             Total In:
                                                                  2,626 mL
                                                                    138 mL
   PO:
                                                                    540 mL
                                                                     50 mL
   TF:
   IVF:
                                                                    656 mL
                                                                     88 mL
   Blood products:
                                                                  1,030 mL
   Total out:
                                                                  1,930 mL
                                                                    150 mL
   Urine:
                                                                  1,580 mL
                                                                    150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    696 mL
                                                                    -12 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   Bibasilar)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed, Diffuse petechiae, ecchymoses
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.7 g/dL
   31 K/uL
   184 mg/dL
   1.1 mg/dL
   21 mEq/L
   4.5 mEq/L
   29 mg/dL
   104 mEq/L
   136 mEq/L
   31.3 %
   3.1 K/uL
        [image002.jpg]
                             [**2104-9-27**]  04:54 AM
                             [**2104-9-27**]  11:11 AM
                             [**2104-9-28**]  03:40 AM
   WBC
   3.5
   4.4
   3.1
   Hct
   19.0
   26.6
   31.3
   Plt
   11
   32
   31
   Cr
   0.7
   0.9
   1.1
   Glucose
   87
   93
   184
   Other labs: LDH:190 IU/L, Ca++:9.1 mg/dL, Mg++:2.1 mg/dL, PO4:3.4 mg/dL
   Fluid analysis / Other labs: Haptoglobin 70
   B12 - 219
   Microbiology: CMV - Pending
   EBV - Pending
   Hep A, C - Pending
   Parvovirus - Pending
   Assessment and Plan
   92 F PMH CAD admitted with profound thrombocytopenia with spontaneous
   bleeding.  ITP is leading the differential, though the evaluation is
   still ongoing.  To date, the only abnormality includes a low vitamin
   B12 level.
   1)       Thrombocytopenia
 Currently having epistaxis that is not
   being easily controlled.  Will transfuse another bag of platelets now
   and then repeat CBC.  Continue prednisone 40 mg daily.  Hematology
   following and considering bone marrow biopsy.  Holding anti-platelet
   therapy.  Viral serologies pending.
   2)       Vitamin B12 deficiency
 Start replacement today with 1000 mcg
   daily for 7 days, followed by 1000 mcg weekly for a month, then 1000
   mcg monthly.
   3)       CAD
 Continue BB, ACEI, statin.
   4)       HTN
 BB, ACEI. [**Month (only) 60**] need to uptitrate BB or resume amlodipine.
   ICU Care
   Nutrition: Regular.
   Glycemic Control:  None needed.
   Lines: Peripheral IVs
   18 Gauge - [**2104-9-27**] 03:10 AM
   Prophylaxis:
   DVT: Boots.
   Stress ulcer: None.
   VAP: N/A
   Comments:
   Communication:  Comments:
   Code status: No CPR ; intubation and pressors OK
   Disposition : Remains in ICU until bleeding stopped.
   Total time spent:

2104-09-29 06:47:00 Physician Resident Progress Note
Chief Complaint:
   [**Age over 90 323**] yo female presents with bleeding in the setting of low platelets,
   likely secondary to ITP.
   24 Hour Events:
   Hct and platelets stable overnight, s/p 1 bag plt [**9-28**] in setting of
   epistaxis
   ITP labs still pending
   Started on B12 repletion
   OOB, amulating in ICU yesterday
   Lopressor held last night, HR in 30-40s overnight, BP stable,
   asymptomatic
   Allergies:
   Codeine
   Shortness of br
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Shortness of br
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-9-29**] 06:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.7
C (96.2
   HR: 45 (38 - 74) bpm
   BP: 166/65(88) {129/48(72) - 174/107(118)} mmHg
   RR: 18 (16 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 60 Inch
             Total In:
                                                                    936 mL
                                                                      6 mL
   PO:
                                                                    500 mL
             TF:
   IVF:
                                                                    240 mL
                                                                      6 mL
   Blood products:
                                                                    196 mL
   Total out:
                                                                    750 mL
                                                                    200 mL
   Urine:
                                                                    750 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    186 mL
                                                                   -194 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///25/
   Physical Examination
   Gen: Well appearing adult female, no acute distress.
   HEENT: PERRL, EOMI. MMM. Conjunctiva well pigmented
   Neck: Supple, without adenopathy or JVD. No tenderness with palpation.
   Wearing soft collar.
   Chest: Few crackles at bases bilat.
   Cor: Normal S1, S2. RRR. III/VI SEM heard best at LUSB.
   Abdomen: Soft, non-tender and non-distended. +BS, no HSM.
   Extremity: Warm, without edema. 2+ DP pulses bilat.
   Skin: diffuse, coalescing petechiae and echymoses  in LE and distal UE
   Neuro: Alert and oriented. CN 2-12 intact. Motor strength intact in all
   extremities. Sensation intact grossly. Appears to have mild, non-focal
   cognative impairment.
   Labs / Radiology
   30 K/uL
   10.9 g/dL
   157 mg/dL
   1.1 mg/dL
   25 mEq/L
   4.3 mEq/L
   33 mg/dL
   103 mEq/L
   137 mEq/L
   29.8 %
   3.8 K/uL
        [image002.jpg]
                             [**2104-9-27**]  04:54 AM
                             [**2104-9-27**]  11:11 AM
                             [**2104-9-28**]  03:40 AM
                             [**2104-9-28**]  12:02 PM
                             [**2104-9-28**]  06:25 PM
                             [**2104-9-29**]  04:13 AM
   WBC
   3.5
   4.4
   3.1
   9.8
   5.8
   3.8
   Hct
   19.0
   26.6
   31.3
   30.1
   30.4
   29.8
   Plt
   11
   32
   31
   34
   28
   30
   Cr
   0.7
   0.9
   1.1
   1.1
   Glucose
   87
   93
   184
   157
   Other labs: PT / PTT / INR:13.4/25.3/1.1, Differential-Neuts:88.6 %,
   Lymph:9.1 %, Mono:2.1 %, Eos:0.2 %, LDH:190 IU/L, Ca++:9.0 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   [**Age over 90 323**] yo female presents with bleeding in the setting of low platelets,
   likely secondary to ITP.
   # Thromocytopenia: Currently felt to be ITP.  Heme/onc following.
   Started on  Prednisone 1 mg/kg.  Plt stable, last transfusion yesterday
   in setting of epistaxis.   Viral serologies pending.
   -Transfuse plts to keep >30, HCT >25
   -f/u heme recs; possible BM biopsy
   -Hold antiplatelet medications until counts recover
   -Prednisone course to be determined by heme/onc team
   # Anemia: Improved to baseline as can best be determined.   Likely
   secondary to bleeding/epistaxis
   -Continue to monitor; transfuse for Hct < 25 and should active bleeding
   begin and or CP, would transfuse to > 30
   # CAD: Continue home BB and statin. Holding home ASA and Plavix in
   setting of thrombocytopenia. Keep HCT >25.
   # HTN: Continue home BB and ACEi and trend; holding CCB.
   # Urinary urgency: continue oxybutynin
   # B12 Deficiency: repleting
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2104-9-27**] 03:10 AM
   Prophylaxis:
   DVT:  Pneumoboots
   Stress ulcer:  Holding PPI given thrombocytopenia, will need to
   consider starting once plts stabilized given need for GI ppx in setting
   of prednisone.
   VAP:  N/A
   Comments:
   Communication:  Comments:
   Code status:  DNR but not DNI
   Disposition: ICU for now

2104-09-29 11:07:00 Physician Attending Progress Note
Chief Complaint: GIB, epistaxis, and presumed ITP with extremely low
   platelets
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   started prednisone on saturday
   recurrent epistaxis requiring nosebleed
   Allergies:
   Codeine
   Shortness of br
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Shortness of br
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-9-29**] 11:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.8
C (96.5
   HR: 59 (38 - 74) bpm
   BP: 161/60(83) {129/48(72) - 174/112(116)} mmHg
   RR: 26 (16 - 28) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 60 Inch
             Total In:
                                                                    936 mL
                                                                     66 mL
   PO:
                                                                    500 mL
                                                                     60 mL
   TF:
   IVF:
                                                                    240 mL
                                                                      6 mL
   Blood products:
                                                                    196 mL
   Total out:
                                                                    750 mL
                                                                    550 mL
   Urine:
                                                                    750 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    186 mL
                                                                   -484 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///25/
   Physical Examination
   Gen: alert, wearing neck brace,
   CV: RR nl s1/s2
   Chest: CTAb
   Abd: soft NT + BS
   Ext: ecchymoses over shins and arms
   Labs / Radiology
   10.9 g/dL
   30 K/uL
   157 mg/dL
   1.1 mg/dL
   25 mEq/L
   4.3 mEq/L
   33 mg/dL
   103 mEq/L
   137 mEq/L
   29.8 %
   3.8 K/uL
        [image002.jpg]
                             [**2104-9-27**]  04:54 AM
                             [**2104-9-27**]  11:11 AM
                             [**2104-9-28**]  03:40 AM
                             [**2104-9-28**]  12:02 PM
                             [**2104-9-28**]  06:25 PM
                             [**2104-9-29**]  04:13 AM
   WBC
   3.5
   4.4
   3.1
   9.8
   5.8
   3.8
   Hct
   19.0
   26.6
   31.3
   30.1
   30.4
   29.8
   Plt
   11
   32
   31
   34
   28
   30
   Cr
   0.7
   0.9
   1.1
   1.1
   Glucose
   87
   93
   184
   157
   Other labs: PT / PTT / INR:13.4/25.3/1.1, Differential-Neuts:88.6 %,
   Lymph:9.1 %, Mono:2.1 %, Eos:0.2 %, LDH:190 IU/L, Ca++:9.0 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   [**Age over 90 323**] F PMH CAD admitted with profound thrombocytopenia with spontaneous
   bleeding.  ITP is leading the differential, though the evaluation is
   still ongoing.  To date, the only abnormality includes a low vitamin
   B12 level.
   1)       Thrombocytopenia
bo further epistaxis or BRBPR, last Plt tx
   yesterday. Continues on Prednisone
 clarify durartion with heme onc
   and need for PCP [**Name Initial (PRE) 1374**]. Holding anti-platelet therapy.  Viral
   serologies pending.
   2)       Vitamin B12 deficiency
 Start replacement today with 1000 mcg
   daily for 7 days, followed by 1000 mcg weekly for a month, then 1000
   mcg monthly.
   3)       CAD
 Continue BB, ACEI, statin.
   4)       HTN
 BB, ACEI. [**Month (only) 60**] need to uptitrate BB or resume amlodipine.
   ICU Care
   Nutrition: reg diet
   Glycemic Control:  prn
   Lines:
   18 Gauge - [**2104-9-27**] 03:10 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: none- eating
   Communication:  with pt
   [**Name (NI) 66**] status: DNR (do not resuscitate)
   Disposition :Transfer to floor